US09108970B2
6-((3R,4R)-3-Aminotetrahydro-2H-pyran-4-ylamino)-4-chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-1H-pyrrolo[3,4-c]pyridin-3(2H)-one
A mixture of 4,6-dichloro-2-(2,4-dimethoxybenzyl)-7-fluoro-1H-pyrrolo[3,4-c]pyridin-3(2 H)-one (2.5 g, 6.74 mmol), (3R,4R)-tetrahydro-2H-pyran-3,4-diamine (0.711 g, 6.12 mmol), and DIPEA (5.35 mL, 30.6 mmol) in ACN (30 mL) was stirred at 85° C. for 3 d in a sealed tube. Additional (3R,4R)-tetrahydro-2H-pyran-3,4-diamine (0.356 g, 3.06 mmol) and DIPEA (2.14 mL, 12.2 mmol) were added and the mixture was heated at 100° C. overnight. The mixture was concentrated and purified via preparative HPLC. The fractions corresponding to the desired regioisomer were collected to give the title compound (265 mg, 9.60%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.64-1.65 (m, 1 H), 1.80-1.82 (s, 1 H), 3.40 (td, J=11.47, 2.44 Hz, 1 H), 3.53 (dd, J=11.23, 1.95 Hz, 1 H), 3.67 (dd, J=11.47, 2.20 Hz, 1 H), 3.71-3.73 (m, 1 H), 3.75 (s, 3 H), 3.77-3.79 (m, 1 H), 3.81 (s, 3 H), 4.09-4.11 (m, 1 H), 4.33 (s, 2 H), 4.50 (s, 2 H), 6.48 (dd, J=8.30, 2.44 Hz, 1 H), 6.58 (d, J=2.44, 1 H), 6.90 (br s, 1 H), 7.06 (d, J=8.30 Hz, 1 H). [M+H] calc'd for C21H24ClFN4O4, 451; found, 451.

reactant | 4,6-dichloro-2-(2,4-dimethoxybenzyl)-7-fluoro-1H-pyrrolo[3,4-c]pyridin-3(2 H)-one | 6.74 mmol, 2.5 g | ClC1=NC(=C(C2=C1C(N(C2)CC2=C(C=C(C=C2)OC)OC)=O)F)Cl | C16H13Cl2FN2O3
reactant | (3R,4R)-tetrahydro-2H-pyran-3,4-diamine | 6.12 mmol, 0.711 g | O1C[C@@H]([C@@H](CC1)N)N | C5H12N2O
reactant | DIPEA | 30.6 mmol, 5.35 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (3R,4R)-tetrahydro-2H-pyran-3,4-diamine | 3.06 mmol, 0.356 g | O1C[C@@H]([C@@H](CC1)N)N | C5H12N2O
reactant | DIPEA | 12.2 mmol, 2.14 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | ACN | 30 mL | C(C)#N | C2H3N
product | 6-((3R,4R)-3-Aminotetrahydro-2H-pyran-4-ylamino)-4-chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | 265 mg, 9.60% | N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)Cl)C(N(C2)CC2=C(C=C(C=C2)OC)OC)=O)F | C21H24ClFN4O4
